US04460584
Phenyl chloroformate (1.73 g.) was added to a vigorously stirred solution of 2,2-dimethoxyethylamine (1.05 g.) and potassium carbonate (1.39 g.) in water (20 ml.), and the mixture stirred at room temperature for 2 hours. The mixture was extracted with ether, and the ether extract dried and evaporated to dryness to give phenyl N-(2,2-dimethoxyethyl)carbamate (1.5 g.) which was used without further purification.

reactant | Phenyl chloroformate | 1.73 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 2,2-dimethoxyethylamine | 1.05 g | COC(CN)OC | C4H11NO2
reactant | potassium carbonate | 1.39 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 20 ml | O | H2O
product | phenyl N-(2,2-dimethoxyethyl)carbamate | 1.5 g | COC(CNC(OC1=CC=CC=C1)=O)OC | C11H15NO4
